US07465795B2
4-amino-8-(2-methoxy-5-methyl-phenyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.485 mmol) and 2-methoxy-5-methyl-phenylboronic acid (166 mg, 1.000 mmol) were reacted to afford the title compound (141 mg, 83% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.56 (br, 1H), 7.88-7.82 (m, 1H), 7.76-7.65 (m, 2H), 7.22-7.12 (m, 2H), 6.93 (m, 1H), 3.67 (s, 3H), 3.45 (apparent q, J=7.0 Hz, 2H), 2.34 (s, 3H), 1.65 (apparent sextet, J=7.0 Hz, 2H), 0.99 (t, J=7.0 Hz, 3H). MS APCI, m/z=351 (M+H). HPLC 1.96 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.485 mmol, 150 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2-methoxy-5-methyl-phenylboronic acid | 1.000 mmol, 166 mg | COC1=C(C=C(C=C1)C)B(O)O | C8H11BO3
product | 4-amino-8-(2-methoxy-5-methyl-phenyl)-N-propyl-cinnoline-3-carboxamide | 141 mg, 83% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)C)OC)C(=O)NCCC | C20H22N4O2
